US07728150B2
3-(1-Ethyl-5-fluoro-indan-1-yl)-1-methyl-7-nitro-1H-indole
Combine 3-(1-ethyl-5-fluoro-indan-1-yl)-7-nitro-1H-indole (0.33 g, 1.02 mmol), sodium methoxide (110 mg, 2.04 mmol), and iodomethane (0.10 ml, 1.53 mmol) in dimethylformamide (5 ml) and stir at room temperature under nitrogen overnight. Dilute with ether, wash with water (2×), dry over sodium sulfate, filter, and concentrate to obtain the title compound as a yellow amorphous solid (0.33 g, 94%). LC-MS m/z 339.1 (M++1).

reactant | 3-(1-ethyl-5-fluoro-indan-1-yl)-7-nitro-1H-indole | 1.02 mmol, 0.33 g | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)[N+](=O)[O-] | C19H17FN2O2
reactant | sodium methoxide | 2.04 mmol, 110 mg | C[O-].[Na+]
reactant | iodomethane | 1.53 mmol, 0.10 ml | IC | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-(1-Ethyl-5-fluoro-indan-1-yl)-1-methyl-7-nitro-1H-indole | 0.33 g, 94% | C(C)C1(CCC2=CC(=CC=C12)F)C1=CN(C2=C(C=CC=C12)[N+](=O)[O-])C | C20H19FN2O2
